* c:\users\arpit\coding\esim_projects\toffoligate\toffoligate.cir

.lib "models/sky130.lib.spice" tt
xm1 net-_m1-pad1_ vin1_a_ net-_m1-pad3_ net-_m1-pad3_ sky130_fd_pr__pfet_01v8
xm4 net-_m1-pad1_ vin2_b_ net-_m1-pad3_ net-_m1-pad3_ sky130_fd_pr__pfet_01v8
xm2 net-_m1-pad1_ vin1_a_ net-_m2-pad3_ gnd sky130_fd_pr__nfet_01v8
xm3 net-_m2-pad3_ vin2_b_ gnd gnd sky130_fd_pr__nfet_01v8
xm6 aandb net-_m1-pad1_ net-_m1-pad3_ net-_m1-pad3_ sky130_fd_pr__pfet_01v8
xm5 aandb net-_m1-pad1_ gnd gnd sky130_fd_pr__nfet_01v8
xm8 net-_m11-pad2_ aandb net-_m1-pad3_ net-_m1-pad3_ sky130_fd_pr__pfet_01v8
xm7 net-_m11-pad2_ aandb gnd gnd sky130_fd_pr__nfet_01v8
xm10 net-_m10-pad1_ vin3_c_ net-_m1-pad3_ net-_m1-pad3_ sky130_fd_pr__pfet_01v8
xm9 net-_m10-pad1_ vin3_c_ gnd gnd sky130_fd_pr__nfet_01v8
xm13 net-_m13-pad1_ net-_m11-pad2_ net-_m1-pad3_ net-_m1-pad3_ sky130_fd_pr__pfet_01v8
xm15 net-_m13-pad1_ net-_m10-pad1_ net-_m1-pad3_ net-_m1-pad3_ sky130_fd_pr__pfet_01v8
xm14 vout3_abxorc_ aandb net-_m13-pad1_ net-_m1-pad3_ sky130_fd_pr__pfet_01v8
xm16 vout3_abxorc_ vin3_c_ net-_m13-pad1_ net-_m1-pad3_ sky130_fd_pr__pfet_01v8
xm11 vout3_abxorc_ net-_m11-pad2_ net-_m11-pad3_ gnd sky130_fd_pr__nfet_01v8
xm12 net-_m11-pad3_ net-_m10-pad1_ gnd gnd sky130_fd_pr__nfet_01v8
xm17 vout3_abxorc_ aandb net-_m17-pad3_ gnd sky130_fd_pr__nfet_01v8
xm18 net-_m17-pad3_ vin3_c_ gnd gnd sky130_fd_pr__nfet_01v8
v4 net-_m1-pad3_ gnd  dc 1.8
v1  vin1_a_ gnd pulse(0 1.8 0 0 0 25 50)
v2  vin2_b_ gnd pulse(0 1.8 0 0 0 7.5 15)
v3  vin3_c_ gnd pulse(0 1.8 0 0 0 15 30)
* u1  vin1_a_ plot_v1
* u2  vin2_b_ plot_v1
* u3  vin3_c_ plot_v1
* u4  vout3_abxorc_ plot_v1
* u5  aandb plot_v1
.tran 1e-00 90e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vin1_a_)
plot v(vin2_b_)
plot v(vin3_c_)
plot v(aandb)
plot v(vout3_abxorc_)
.endc
.end
