* c:\users\arpit\coding\esim_projects\toffoligate\toffoligate.cir

.include NMOS-180nm.lib
.include PMOS-180nm.lib
m1 net-_m1-pad1_ vin1_a_ net-_m1-pad3_ net-_m1-pad3_ CMOSP W=100u L=100u M=1
m4 net-_m1-pad1_ vin2_b_ net-_m1-pad3_ net-_m1-pad3_ CMOSP W=100u L=100u M=1
m2 net-_m1-pad1_ vin1_a_ net-_m2-pad3_ gnd CMOSN W=100u L=100u M=1
m3 net-_m2-pad3_ vin2_b_ gnd gnd CMOSN W=100u L=100u M=1
m6 aandb net-_m1-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSP W=100u L=100u M=1
m5 aandb net-_m1-pad1_ gnd gnd CMOSN W=100u L=100u M=1
m8 net-_m11-pad2_ aandb net-_m1-pad3_ net-_m1-pad3_ CMOSP W=100u L=100u M=1
m7 net-_m11-pad2_ aandb gnd gnd CMOSN W=100u L=100u M=1
m10 net-_m10-pad1_ vin3_c_ net-_m1-pad3_ net-_m1-pad3_ CMOSP W=100u L=100u M=1
m9 net-_m10-pad1_ vin3_c_ gnd gnd CMOSN W=100u L=100u M=1
m13 net-_m13-pad1_ net-_m11-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSP W=100u L=100u M=1
m15 net-_m13-pad1_ net-_m10-pad1_ net-_m1-pad3_ net-_m1-pad3_ CMOSP W=100u L=100u M=1
m14 vout3_abxorc_ aandb net-_m13-pad1_ net-_m1-pad3_ CMOSP W=100u L=100u M=1
m16 vout3_abxorc_ vin3_c_ net-_m13-pad1_ net-_m1-pad3_ CMOSP W=100u L=100u M=1
m11 vout3_abxorc_ net-_m11-pad2_ net-_m11-pad3_ gnd CMOSN W=100u L=100u M=1
m12 net-_m11-pad3_ net-_m10-pad1_ gnd gnd CMOSN W=100u L=100u M=1
m17 vout3_abxorc_ aandb net-_m17-pad3_ gnd CMOSN W=100u L=100u M=1
m18 net-_m17-pad3_ vin3_c_ gnd gnd CMOSN W=100u L=100u M=1
v4 net-_m1-pad3_ gnd  dc 1.8
v1  vin1_a_ gnd pulse(0 1.8 0 0 0 25 50)
v2  vin2_b_ gnd pulse(0 1.8 0 0 0 7.5 15)
v3  vin3_c_ gnd pulse(0 1.8 0 0 0 15 30)
* u1  vin1_a_ plot_v1
* u2  vin2_b_ plot_v1
* u3  vin3_c_ plot_v1
* u4  vout3_abxorc_ plot_v1
* u5  aandb plot_v1
.tran 1e-00 90e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vin1_a_)
plot v(vin2_b_)
plot v(vin3_c_)
plot v(vout3_abxorc_)
plot v(aandb)
.endc
.end
